* Part 2 simple
* Exact copy of part1_simple.cir with added L and C branches

V1 5 0 2
V2 3 2 0.2
V3 7 6 2
I1 4 8 1e-3
I2 0 6 1e-3
R1 1 5 1.5
R2 1 2 1
R3 5 2 50
R4 5 6 0.1
R5 2 6 1.5
R6 3 4 0.1
R7 8 0 1e3
R8 4 9 10

L1 9 0 1e3
C1 7 0 1e6

